US07592342B2
Preparation of N-(2-chloro-5-{3-[3-(dimethylamino)-1-piperidinyl]-6-quinoxalinyl}-3-pyridinyl)benzenesulfonamide
A slurry of 1-(7-bromo-2-quinoxalinyl)-N,N-dimethyl-3-piperidinamine (1.2 mmol), bis(pinacolato)diboron (1.30 mmol), potassium acetate (4.80 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane complex (1:1) (0.09 mmol) in 1,4-dioxane (5 ml) was heated at 100° C. After the reaction stirred for 2.5 hours, N-(5-bromo-2-chloro-3-pyridinyl)benzenesulfonamide (1.20 mmol) and 2M solution potassium carbonate (5 ml) was added and continued to stir for 18 hours. The reaction was cooled to ambient temperature, concentrated, redissolved in methanol and purified on reverse phase HPLC (0.1% trifluoracetic acid/water in acetonitrile). The desired fractions were combined, neutralized with saturated sodium bicarbonate, extracted with ethyl acetate (3×20 ml). Combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated to give the title compound (52 mg, 10%) as a yellow solid. MS(ES)+ m/e 524.2 [M+H]+.

reactant | 1-(7-bromo-2-quinoxalinyl)-N,N-dimethyl-3-piperidinamine | 1.2 mmol | BrC1=CC=C2N=CC(=NC2=C1)N1CC(CCC1)N(C)C | C15H19BrN4
reactant | bis(pinacolato)diboron | 1.30 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.80 mmol | C(C)(=O)[O-].[K+]
reactant | N-(5-bromo-2-chloro-3-pyridinyl)benzenesulfonamide | 1.20 mmol | BrC=1C=C(C(=NC1)Cl)NS(=O)(=O)C1=CC=CC=C1 | C11H8BrClN2O2S
reactant | potassium carbonate | 5 ml | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N-(2-chloro-5-{3-[3-(dimethylamino)-1-piperidinyl]-6-quinoxalinyl}-3-pyridinyl)benzenesulfonamide | 52 mg, 10% | ClC1=NC=C(C=C1NS(=O)(=O)C1=CC=CC=C1)C=1C=C2N=C(C=NC2=CC1)N1CC(CCC1)N(C)C | C26H27ClN6O2S
